US08703742B2
3-(3-Benzyloxy-propoxy)-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
Synthesized according to the methods of general procedure 5 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-3-fluoro-6-formyl-phenyl ester (2.0 g, 4.57 mmol), THF (15 mL), B2pin2 (2.20 g, 8.66 mmol), KOAc (1.60 g, 16.3 mmol), PdCl2(dppf)DCM (0.40 g, 0.55 mmol). Purification: Biotage silica gel chromatography (hexanes/ethyl acetate gradient) generated 0.50 g (26% yield) of the title compound. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 9.86 (s, 1H), 7.51 (dd, J=8.2, 4.0 Hz, 1H), 7.34-7.31 (m, 5H), 7.21 (dd, J=11.0, 8.2 Hz, 1H), 4.51 (s, 2H), 4.24 (td, J=6.5, 2.0 Hz, 2H), 3.67 (t, J=6.2 Hz, 2H), 2.11-2.07 (m, 2H); 1.33 (s, 12H); 19F NMR (376 MHz, DMSO-d6 with D2O) δ (ppm): −120.3-−121.1 (m, 1F).

reactant | trifluoro-methanesulfonic acid 2-(3-benzyloxy-propoxy)-3-fluoro-6-formyl-phenyl ester | 4.57 mmol, 2.0 g | C(C1=CC=CC=C1)OCCCOC1=C(C(=CC=C1F)C=O)OS(=O)(=O)C(F)(F)F | C18H16F4O6S
reactant | B2pin2 | 8.66 mmol, 2.20 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 16.3 mmol, 1.60 g | CC(=O)[O-].[K+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-(3-Benzyloxy-propoxy)-4-fluoro-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 0.50 g, 26% yield | C(C1=CC=CC=C1)OCCCOC=1C(=C(C=O)C=CC1F)B1OC(C(O1)(C)C)(C)C | C23H28BFO5
